US04864028
2,4,7-Trifluoro-5-methoxyspiro(9H-fluorene-9,4'-imidazolidine)2',5'-dione
A mixture of 2,4,7-trifluoro-5-methoxy-9H-fluoren-9-one (2.0 g, 7.6 mmol), potassium cyanide (3 eq, 23 mmol, 1.5 g), and ammonium carbonate (4 eq, 30 mmol, 2.9 g) in 50 mL of ethanol was heated in a sealed bomb at 115° C. for 24 h. After the bomb was cooled and opened, the solvent was evaporated and the residue dissolved in 1M aqueous sodium hydroxide. The basic solution was extracted with ethyl acetate to remove base insoluble impurities and then acidified using concentrated hydrochloric acid. The acidic solution was extracted with ethyl acetate and the extracts were dried over MgSO4 and concentrated to leave 1.2 g of a brown solid. Chromatography on silica gel using 45% ethyl acetate in hexane provided 500 mg (20%) of the spirohydantoin: mp 227°-229° C.

reactant | 2,4,7-trifluoro-5-methoxy-9H-fluoren-9-one | 7.6 mmol, 2.0 g | FC1=CC=2C(C3=CC(=CC(=C3C2C(=C1)F)OC)F)=O | C14H7F3O2
reactant | potassium cyanide | 23 mmol, 1.5 g, 3 eq | [C-]#N.[K+]
reactant | ammonium carbonate | 30 mmol, 2.9 g, 4 eq | C([O-])([O-])=O.[NH4+].[NH4+]
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | 2,4,7-Trifluoro-5-methoxyspiro(9H-fluorene-9,4'-imidazolidine)2',5'-dione | 1.2 g | FC1=CC2=C(C(=C1)F)C1=C(C=C(C=C1C21NC(NC1=O)=O)F)OC | C16H9F3N2O3
